US05399578
b) N-Valeryl-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester
5.5 g of N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester hydrochloride, 4.33 g of diisopropylethylamine and 3 ml of valeryl chloride are stirred at room temperature for 36 hours and the mixture is then evaporated to dryness. The residue is taken up in ether and washed with sodium bicarbonate and brine. The crude product is further processed without purification.

reactant | N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester hydrochloride | 5.5 g | Cl.C(C1=CC=CC=C1)OC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O
reactant | diisopropylethylamine | 4.33 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | valeryl chloride | 3 ml | C(CCCC)(=O)Cl | C5H9ClO
product | N-Valeryl-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(CCCC)=O)C(C)C)=O | C31H34N2O3
